US04677202
D. Preparation of Bis(2-acetamido-4-methoxyphenyl)ditelluride
1,1,1-Trichloro-6-methoxy-3-methyl-2,1,4-benzoxatellurazinium, inner salt (Example 11) (5.0 g=0.0125 mole) was dissolved in 50% aqueous ethanol (200 ml). The solution heated to boil, and hydrazine (1 ml) was added with stirring. The deep orange solution was cooled slowly to room temperature to deposit fibrous needles which, upon filtration and drying, yielded a tan solid (3.25 g, 89% of theory), m.p. 181°-182° C.

reactant | 1,1,1-Trichloro-6-methoxy-3-methyl-2,1,4-benzoxatellurazinium | Cl[TeH]1(OC(=[NH+]C2=C1C=CC(=C2)OC)C)(Cl)Cl
reactant | hydrazine | 1 ml | NN | H4N2
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | Bis(2-acetamido-4-methoxyphenyl)ditelluride | C(C)(=O)NC1=C(C=CC(=C1)OC)[Te][Te]C1=C(C=C(C=C1)OC)NC(C)=O | C18H20N2O4Te2
